US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-propylamino-pyrimidine-5-carbonitrile
From 2-amino-4-benzo[1,3 ]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and propylamine in DME. ES-MS m/e (%): 298 (M+H+, 100).

reactant | 2-amino-4-benzo[1,3 ]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | propylamine | C(CC)N | C3H9N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-propylamino-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)NCCC | C15H15N5O2
